US07544690B2
A solution of trans-4-{[2,5-bis-(2,2,2-trifluoro-ethoxy)-benzenesulfonylamino]-methyl}-cyclohexanecarboxylic acid (2.78 g, 5.63 mmol) and triethylamine (1.9 mL, 13.6 mmol) in THF (25 mL) was cooled to 0° C. To the mixture was added ethyl chloroformate (0.586 mL, 6.2 mmol) in THF (5 mL) over 10 min. After stirring at 0° C. for 15 min, 25% aqueous ammonia (10 mL) was added dropwise. The mixture was stirred at ambient temperature for 2 hr. The resulting mixture was concentrated under reduced pressure and the concentrate was diluted with water to give a solid. The solid was filtered and washed with water and hexanes to give trans-4-{[2,5-bis-(2,2,2-trifluoro-ethoxy)-benzenesulfonylamino]-methyl}-cyclohexanecarboxylic acid amide as a white solid (2.7 g, 98%).

reactant | trans-4-{[2,5-bis-(2,2,2-trifluoro-ethoxy)-benzenesulfonylamino]-methyl}-cyclohexanecarboxylic acid | 5.63 mmol, 2.78 g | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)S(=O)(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O)(F)F | C18H21F6NO6S
reactant | triethylamine | 13.6 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 6.2 mmol, 0.586 mL | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 10 mL | N | H3N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | trans-4-{[2,5-bis-(2,2,2-trifluoro-ethoxy)-benzenesulfonylamino]-methyl}-cyclohexanecarboxylic acid amide | 2.7 g, 98% | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)S(=O)(=O)NC[C@@H]1CC[C@H](CC1)C(=O)N)(F)F | C18H22F6N2O5S
